US07642270B2
2-(3-Dimethylcarbamoyl-phenylamino)-8-indan-5-yl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (5.2 mg, 0.010 mmol) was dissolved in MeOH (1 mL) and ethylamine (1 mL of 1.0 M solution in THF, 1.0 mmol) was added and the reaction mixture was heated at 80° C. After 16 h, the solution was cooled to rt and purified by preparative HPLC (C-18 column, 32 mL/min 5-100% MeCN/H2O gradient over 15 min) and lyophilized to provide 2.1 mg of 2-(3-dimethylcarbamoyl-phenylamino)-8-indan-5-yl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethylamide. 1H NMR (TFA salt) (400 MHz, CDCl3) δ (ppm): 9.64 (s, 1H), 9.32 (s, 1H), 8.77 (s, 1H), 7.51 (dd, 1H, J=2.3 Hz, J=9.3 Hz), 7.34 (d, 1H, J=7.8 Hz), 7.17-7.19 (m, 3H), 7.11 (dd, 1H, J=2.0 Hz, J=8.0 Hz), 6.99 (br. S, 1H), 3.44 (dq, 2H, J=5.8 Hz, J=7.3 Hz), 2.86-3.05 (m, 10H), 2.11-2.19 (m, 2H), 1.21 (t, 1H, J=7.3 Hz). Mass Spectrum (LCMS, ESI pos.) Calcd. for C28H28N6O3: 496.22, Found: 497.2 (M+H).

reactant | 2-(3-Dimethylcarbamoyl-phenylamino)-8-indan-5-yl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.010 mmol, 5.2 mg | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)NC2=CC(=CC=C2)C(N(C)C)=O)N(C1)C=1C=C2CCCC2=CC1)=O | C28H27N5O4
reactant | ethylamine | 1.0 mmol, 1.0 M, 1 mL | C(C)N | C2H7N
solvent | MeOH | 1 mL | CO | CH4O
product | 2-(3-dimethylcarbamoyl-phenylamino)-8-indan-5-yl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethylamide | 2.1 mg | C(C)NC(=O)C=1C(C2=C(N=C(N=C2)NC2=CC(=CC=C2)C(N(C)C)=O)N(C1)C=1C=C2CCCC2=CC1)=O | C28H28N6O3
